US06759554B2
N-(4-Methylphenyl)-N′-[3-(4-methylphenylamino)propyl]-1,4-butanediamine (FIG. 3, Entry 6)
An oven-dried resealable 15 mL Schlenk tube was charged with CuI (9.6 mg, 0.0504 mmol), 4-Iodotoluene (260 mg, 1.19 mmol), K3PO4 (440 mg, 2.07 mmol), evacuated and backfilled with argon. N-(3-Aminopropyl)-1,4-butanediamine (79 μL, 0.503 mmol), ethylene glycol (115 μL, 2.06 mmol), and isopropyl alcohol (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred magnetically at 80° C. for 23 h. The resulting thick, gray-brown suspension was allowed to reach room temperature, poured into a solution of 30% aq ammonia (1 mL) in water (20 mL), and extracted with 3×15 mL of CH2Cl2. The organic phase was dried (Na2SO4), concentrated, and the residue was purified by flash chromatography on silica gel (2×15 cm; dichloromethane-dichloromethane saturated with 30% aq ammonia-methanol 30:20:2; 15 mL fractions). Fractions 12-24 were concentrated and the residue was recrystallized from hexanes (2 mL) to give 119 mg (73% yield) of the desired product as fine white crystals. 1H NMR (400 MHz, CDCl3): δ 6.98 (d, J=8.4 Hz, 4H), 6.56−6.50 (m, 4H), 4.04 (br s, 1H), 3.56 (br s, 1), 3.17 (t, J=6.6 Hz, 2H), 3.11 (t, J=6.6 Hz, 2H), 2.74 (t, J=6.6 Hz, 2H), 2.64 (t, J=6.9 Hz, 2H), 2.23 (s, 6H), 1.79 (quintet, J=6.6 Hz, 2H), 1.70−1.54 (m, 4H), 0.95 (br s, 1H). 13C NMR (100 MHz, CDCl3): δ 146.3, 146.1, 129.7, 126.3, 112.89, 112.85, 49.8, 48.5, 44.2, 43.3, 29.6, 27.8, 27.3, 20.4.

reactant | 4-Iodotoluene | 1.19 mmol, 260 mg | IC1=CC=C(C=C1)C | C7H7I
reactant | K3PO4 | 2.07 mmol, 440 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N-(3-Aminopropyl)-1,4-butanediamine | 0.503 mmol, 79 μL | NCCCNCCCCN | C7H19N3
reactant | ethylene glycol | 2.06 mmol, 115 μL | C(CO)O | C2H6O2
reactant | ammonia | 1 mL | N | H3N
solvent | water | 20 mL | O | H2O
catalyst | CuI | 0.0504 mmol, 9.6 mg | [Cu]I
solvent | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
product | N-(4-Methylphenyl)-N′-[3-(4-methylphenylamino)propyl]-1,4-butanediamine | 119 mg, 73% yield | CC1=CC=C(C=C1)NCCCCNCCCNC1=CC=C(C=C1)C | C21H31N3
